US09145415B2
To a solution of 2,4-dichloro-6-methylpyrimidine (1.00 g) in dimethyl sulfoxide (10 mL), N,N-diisopropylethylamine (1.07 mL) and propylamine (0.51 mL) were added at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, N,N-diisopropylethylamine (1.07 mL) and propylamine (0.51 mL) were added at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 90 to 70% hexane in ethyl acetate) to obtain 2-chloro-6-methyl-N-propylpyrimidin-4-amine (T1, 776 mg).

reactant | 2,4-dichloro-6-methylpyrimidine | 1.00 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-diisopropylethylamine | 1.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 1.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | propylamine | 0.51 mL | C(CC)N | C3H9N
solvent | propylamine | 0.51 mL | C(CC)N | C3H9N
product | 2-chloro-6-methyl-N-propylpyrimidin-4-amine | 776 mg | ClC1=NC(=CC(=N1)NCCC)C | C8H12ClN3
